US08791119B2
To a solution of 41.0 g (220 mmol) of 4-(3-fluorophenyl)-1H-pyrrole-3-carbonitrile in 400 ml of tetrahydrofuran are added portionwise 33.0 g (242 mmol) of N-chlorosuccinimide (CAS 128-09-6) and the mixture is then stirred for 24 hours at reflux. After cooling, 200 ml of water containing 5 g of sodium thiosulfate are added and, after stirring for 5 minutes, the reaction product is extracted with ethyl acetate. The organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give 45.5 g of 5-chloro-4-(3-fluorophenyl)-1H-pyrrole-3-carbonitrile in the form of a whitish powder after triturating in 200 ml of dichloromethane, filtering off and drying.

reactant | 4-(3-fluorophenyl)-1H-pyrrole-3-carbonitrile | 220 mmol, 41.0 g | FC=1C=C(C=CC1)C=1C(=CNC1)C#N | C11H7FN2
reactant | N-chlorosuccinimide | 242 mmol, 33.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 200 ml, 5 g | O | H2O
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 5-chloro-4-(3-fluorophenyl)-1H-pyrrole-3-carbonitrile | 45.5 g | ClC1=C(C(=CN1)C#N)C1=CC(=CC=C1)F | C11H6ClFN2
